US07781431B2
Step 8: methyl 5-(4-chlorophenyl)-6-cyclohexyl-3-(1,3-dioxolan-2-yl)-4-methyl-4H-thieno[3,2-b]pyrrole-2-carboxylate
A solution (0.15 M) of methyl 5-(4-chlorophenyl)-6-cyclohexyl-3-formyl-4H-thieno[3,2-b]pyrrole-2-carboxylate, ethylene glycol (10 eq.) and a catalytic amount of p-TsOH in toluene was refluxed (Dean-Stark) for 3 h. After cooling down to RT solid NaHCO3 was added and the mixture was diluted with AcOEt and water. The layers were separated and the aqueous layer was extracted with AcOEt. The combined organic phase was dried. Evaporation of the solvent under reduced pressure afforded a residue that was purified by flash chromatography on silica gel (1:3 AcOEt/petroleum ether) to afford the title compound (89%) as a yellow solid.

reactant | methyl 5-(4-chlorophenyl)-6-cyclohexyl-3-formyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.15 M | ClC1=CC=C(C=C1)C1=C(C2=C(N1)C(=C(S2)C(=O)OC)C=O)C2CCCCC2 | C21H20ClNO3S
reactant | ethylene glycol | 10 eq. | C(CO)O | C2H6O2
reactant | p-TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | methyl 5-(4-chlorophenyl)-6-cyclohexyl-3-(1,3-dioxolan-2-yl)-4-methyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 89% | ClC1=CC=C(C=C1)C1=C(C2=C(N1C)C(=C(S2)C(=O)OC)C2OCCO2)C2CCCCC2 | C24H26ClNO4S
